data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}, {"role": "reagent", "text": "Na2S"}, {"role": "reagent", "text": "CH3OH"}], "steps": [{"reactants": "CN1C2=C(CC1)c1ccccc1CC2.O=S(c1ccccc1)/C=C/C=C", "products": "O=S(c1ccccc1)C2C=CCC3(C(CC4)2N(CC3)C)c5c4cccc5"}, {"reactants": "O=S(c1ccccc1)C2C=CCC3(C(CC4)2N(CC3)C)c5c4cccc5", "products": "CN(CC1)C2(CC3)C1(CC(C=C2)OSc4ccccc4)c5c3cccc5"}, {"reactants": "CN(CC1)C2(CC3)C1(CC(C=C2)OSc4ccccc4)c5c3cccc5.[SH-]", "products": "[O-]C(C=CC1(CC2)N(CC3)C)CC13c4c2cccc4.SSc1ccccc1"}, {"reactants": "[O-]C(C=CC1(CC2)N(CC3)C)CC13c4c2cccc4.CO", "products": "OC(C=CC1(CC2)N(CC3)C)CC13c4c2cccc4.[O-]C"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1c(F)ccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1c(F)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1c(F)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1c(F)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1c(F)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1c(F)ccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1OCC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1OCC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1OCC)C(C)C", "products": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "CCOc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(Cl)cc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1ccc(Cl)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1ccc(Cl)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(Cl)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1ccc(Cl)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(Cl)cc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1ccc(Cl)cc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1ccc(Cl)cc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1ccc(Cl)cc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1ccc(Cl)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1ccc(Cl)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1ccc(Cl)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1ccc(Cl)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1ccc(Cl)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1ccc(Cl)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1ccc(Cl)cc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(C(=O)C2C3CCC2C3)c1Cl", "products": "COc1cccc([C]([O])C2C3CCC2C3)c1Cl"}, {"reactants": "COc1cccc([C]([O])C2C3CCC2C3)c1Cl", "products": "COc1cccc(C([O])=CC2C[CH]CC2)c1Cl"}, {"reactants": "COc1cccc(C([O])=CC2C[CH]CC2)c1Cl", "products": "COc1cccc(C(O)=CC2C=CCC2)c1Cl"}, {"reactants": "COc1cccc(C(O)=CC2C=CCC2)c1Cl", "products": "COc1cccc(C(=O)CC2C=CCC2)c1Cl"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Cl)c1F.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1F"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1F", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1F.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2F)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1F"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1F", "products": "COc1cc2c(c(Cl)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(Cl)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(Cl)c1F)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(Cl)c1F)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(Cl)c1F.[H+]"}]}
